US05599829
3-(3-Chloro-4-methylphenyl)-2-ethylsulfanyl-3,5-dihydroimidazol-4-one
A mixture of 2-[3-(3-chloro-4-methylphenyl)-thioureido]-acetamide (10.0 g), ethyl iodide (17.5 g), and ethanol (200 mL) was heated at reflux for 2.5 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (500 mL) and water (500 mL). The organic phase was washed with water (2×300 mL). The organic phase was extracted with 2N HCl (2×500 mL). The acid extract was neutralized with solid sodium bicarbonate and extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous Na2SO4 then evaporated to dryness. The residue was stirred in diethyl ether and faltered to give the title compound (8.4 g) as a white solid, m.p. 133°-135° C. Anal. Calcd. for. C12H13Cl N2O S: C, 53.63; H, 4.88; N, 10.42. Found: C, 53.66; H, 4.78; N, 10.39. Mass spectrum (EI, M.+) m/z 268/270. 1H-NMR (DMSO-d6 ; 400 MHz) δ7.47 (d, 1H), 7.43 (d, 1H), 7.20 (dd, 1H), 4.29 (s, 2H), 3.07 (q, 2H), 2.36 (s, 3H), and 1.28 ppm (t, 3H).

reactant | 2-[3-(3-chloro-4-methylphenyl)-thioureido]-acetamide | 10.0 g | ClC=1C=C(C=CC1C)NC(NCC(=O)N)=S | C10H12ClN3OS
reactant | ethyl iodide | 17.5 g | C(C)I | C2H5I
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-(3-Chloro-4-methylphenyl)-2-ethylsulfanyl-3,5-dihydroimidazol-4-one | 8.4 g | ClC=1C=C(C=CC1C)N1C(=NCC1=O)SCC | C12H13ClN2OS
